US06756392B2
(4-{[(2-Chloro-pyridine-3-carbonyl)-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester (12.0 g, 32.2 mmol) (see Preparation 7), 3-hydroxy-benzoic acid ethyl ester (6.42 g, 38.6 mmol) and caesium carbonate (15.7 g, 48.3 mmol) were stirred in dioxan (180 ml) at 70° C. under an atmosphere of nitrogen for 18 hours. Starting material remained, so a further aliquot of 3-hydroxy-benzoic acid ethyl ester (6.42 g, 38.6 mmol) and caesium carbonate (15.7 g, 48.3 mmol) were added along with dioxan (420 ml) and N,N-dimethylformamide (40 ml) and the reaction stirred at 70° C. for a further 22 hours. The solvent was then removed under reduced pressure, the residue partitioned between ethyl acetate (200 ml) and water (200 ml), and the organic layer separated. The organic layer was then washed with a saturated aqueous solution of sodium chloride (3-fold 100 ml), the solvent removed in vacuo and the residue purified by flash column chromatography on silica gel eluting with a solvent gradient of 0:100 changing to 50:50, by volume, ethyl acetate:hexane to give 3-{3-[4-tert-butoxycarbonylamino-methyl)-benzylcarbamoyl]-pyridin-2-yloxy}-benzoic acid ethyl ester (7.42 mg) as an off-white foam.

reactant | (4-{[(2-Chloro-pyridine-3-carbonyl)-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester | 32.2 mmol, 12.0 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CNC(=O)C=1C(=NC=CC1)Cl)=O | C19H22ClN3O3
reactant | 3-hydroxy-benzoic acid ethyl ester | 38.6 mmol, 6.42 g | C(C)OC(C1=CC(=CC=C1)O)=O | C9H10O3
reactant | caesium carbonate | 48.3 mmol, 15.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-benzoic acid ethyl ester | 38.6 mmol, 6.42 g | C(C)OC(C1=CC(=CC=C1)O)=O | C9H10O3
reactant | caesium carbonate | 48.3 mmol, 15.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dioxan | 180 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 420 ml | O1CCOCC1 | C4H8O2
product | benzoic acid ethyl ester | 7.42 mg | C(C)OC(C1=CC=CC=C1)=O | C9H10O2
